US07846925B2
A mixture of 4-amino isophthalic acid (17 g, 0.093 mol) and formamide (85 mL) was heated at 180° C. for 5 h. The reaction mixture was cooled to RT and added acetone. The solid precipitate thus obtained was stirred for 2 h, filtered and dried to give 4-oxo-3,4-dihydroquinazoline-6-carboxylic acid (11 g, 61%).

reactant | 4-amino isophthalic acid | 0.093 mol, 17 g | NC1=C(C=C(C(=O)O)C=C1)C(=O)O | C8H7NO4
reactant | formamide | 85 mL | C(=O)N | CH3NO
solvent | acetone | CC(=O)C | C3H6O
product | 4-oxo-3,4-dihydroquinazoline-6-carboxylic acid | 11 g, 61% | O=C1NC=NC2=CC=C(C=C12)C(=O)O | C9H6N2O3
